Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
___ guided uterine artery embolization 
 
Major Surgical or Invasive Procedure:
___ guided uterine artery embolization 

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a history of uterine
fibroids and iron-deficiency anemia, who presents for
post-procedure monitoring and pain-control status post ___
uterine artery embolization.

The patient's menses last 7 days with ___ days of heavy 
bleeding,
during which she has to change a pad every hour, which has 
caused
lifestyle modification.

On ___ in referral, reviewed options, and was given a trial
of meclomen without improvement. 

The patient is relatively asymptomatic from the anemia. She
does not report fatigue.  She has been taking iron 3 times 
daily.

Patient is s/p operative hysteroscopy for submucous myoma on
___. This is second resection of submucous myoma, previously
also done ___. Her symptoms originally improved after her
myomectomies.

The patient underwent a L radial artery approach uterine artery
embolization without complications and was transferred to the
medicine floor for post-procedure monitoring.

Upon arrival to the floor, the patient states that she has ___
pain in her lower abdomen and back that is similar to menstrual
cramping but stronger. She also notes mild nausea. Otherwise,
does not report fevers, chills, chest pain, shortness of breath,
vomiting, and changes in bowel habits. Noted some spotting with
urination.

 
Past Medical History:
Uterine fibroids
Iron deficiency anemia

 
Social History:
___
Family History:
Sister has uterine fibroids.

 
Physical Exam:
=======================
ADMISSION PHYSICAL EXAM
=======================
VITALS: T 98.3 PO, BP 151 / 84, HR 77, RR 18, O2 sat 97% on RA 
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Extraocular muscles intact.
Sclera anicteric and without injection. Moist mucous membranes.
Oropharynx is clear.
NECK: Supple. No LAD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, tenderness to deep
palpation in the bilateral lower quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses Radial 2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rash.
NEUROLOGIC: A&Ox3, moving all 4 extremities with purpose. Intact
sensation of L hand near radial access site.

=======================
DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 819) Temp: 98.5 (Tm 98.5),
BP: 111/71 (111-151/71-84), HR: 64 (55-77), RR: 18, O2 sat: 96%
(96-97), O2 delivery: Ra, Wt: 230 lb/104.33 kg  
GENERAL: Alert and interactive. In no acute distress.
HEENT: Normocephalic, atraumatic. Extraocular muscles intact.
Sclera anicteric and without injection. Moist mucous membranes.
Oropharynx is clear.
NECK: Supple. No LAD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally w/appropriate breath
sounds appreciated in all fields. No wheezes, rhonchi or rales.
ABDOMEN: Normal bowels sounds, non distended, mild tenderness to
deep palpation in the bilateral lower quadrants. No 
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses Radial 2+
bilaterally.
NEUROLOGIC: A&Ox3, moving all 4 extremities with purpose. 

 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 07:35AM BLOOD WBC-6.9 RBC-3.72* Hgb-11.2 Hct-34.7 
MCV-93 MCH-30.1 MCHC-32.3 RDW-13.3 RDWSD-45.6 Plt ___
___ 07:35AM BLOOD ___
___ 07:35AM BLOOD Creat-0.6

==============
DISCHARGE LABS
==============
___ 06:20AM BLOOD WBC-12.8* RBC-3.51* Hgb-10.7* Hct-33.1* 
MCV-94 MCH-30.5 MCHC-32.3 RDW-13.2 RDWSD-45.1 Plt ___
 
Brief Hospital Course:
========
SUMMARY
========
Ms. ___ is a ___ year-old woman with a history of uterine 
fibroids and iron-deficiency anemia, who underwent successful 
___
uterine artery embolization admitted overnight for 
post-procedure monitoring and pain-control.

=====================
Acute Medical Issues
===================== 
# Uterine fibroids s/p uterine artery embolization: The patient 
underwent uncomplicated uterine artery embolization with ___ and
is admitted for post-procedure monitoring and pain-control. The
patient was monitored overnight and received PRN oxycodone 5mg 
with good control of pain. Hgb was stable overnight. Will be 
discharged today. Will continue pain control with oxycodone 5mg 
q6h PRN and ibuprofen 600mg q8hrs PRN. Will continue home iron 
supplementation

# LEUKOCYTOSIS
Likely reactive in setting of recent procedure. No other signs 
of
infection: afebrile, no cough, dysuria, diarrhea, N/V.

====================
Transitional Issues
====================
[ ] Patient has a follow-up pelvic MRI in 3 months and 
appointment with Dr. ___ in ___ clinic after that.

[ ] Patient discharged on short 3 day course of oxycodone. 
Please follow-up pain control as outpatient.

#CODE: FULL CODE (presumed)
#CONTACT: Next of Kin: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
2.  Naproxen 500 mg PO Q12H pain Duration: 7 Days 
RX *naproxen 500 mg 1 tablet(s) by mouth every twelve (12) hours 
Disp #*14 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth one tablet every 6 
hours as needed Disp #*12 Capsule Refills:*0 
4.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram 1 packet by mouth once 
daily Disp #*30 Packet Refills:*0 
5.  Ferrous Sulfate 325 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
=================
Primary Diagnosis
=================
Uterine Fibroids and menorrhagia s/p uterine artery embolization

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
======================
DISCHARGE INSTRUCTIONS
======================

Dear Ms. ___,

It was a pleasure caring for you at ___.

WHY WAS I IN THE HOSPITAL?
- You had a procedure called a uterine artery embolization. You 
tolerated the procedure well and were cleared to go home

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were given some medication for pain and were watched 
overnight to make sure you did not have any complications.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue to take all your medicines and keep your 
appointments.
- You are scheduled to have a pelvic MRI and follow up at ___ 
clinic with Dr. ___ in 3 months as scheduled.
- We will send you home with a short course of oxycodone and 
ibuprofen for pain. Please take the ibuprofen for mild 
pain/cramping and oxycodone as prescribed for severe pain.

WHAT TO EXPECT:
Symptoms typically include:
Pelvic pain / cramping
Nausea / vomiting
Feeling tired
Low-grade fever
Poor appetite
Flu-like symptoms
Light spotting (can last up to 1 month)

These symptoms usually last ___ days and may be more severe in 
some women than others. Often times, patients feel better ___ 
days after the procedure and then experience additional episodes 
of pain and cramping. For this reason we recommend taking your 
medications as prescribed for the first ___ days.

WHAT TO WATCH FOR:
Call the interventional radiology office if any of the following 
occur:
Fever greater than 102.5&#730; or fever associated with sweating 
and chills 
Abnormal foul-smelling vaginal discharge 
Heavy bright red vaginal bleeding, different from your normal 
menstrual flow 
Pain or burning with urination
Pelvic pain unrelieved by pain medication, and/or pain which 
lasts longer than two weeks

TAKE THE FOLLOWING MEDICATIONS FOR YOUR PAIN:
PO Naproxen 500mg twice daily for 7 days
PO Oxycodone 5mg ___ tab every ___ hours as needed, max 12 tabs 
daily
PO Colace 100mg daily (to prevent constipation)
PO Miralax 17g daily (to prevent constipation)

We wish you the best!

Sincerely,
Your ___ Team

 
Followup Instructions:
___